US04812470
A solution of ethyl 5-phenylisoxazole-3-carboxylate (5.90 g, 27 mmol) in ether (30 ml) was added dropwise to a suspension of lithium aluminium hydride in ether (20 ml). When addition was complete, the mixture was heated at reflux for 1 h then a further quantity of lithium aluminium hydride (0.25 g) was added and reflux continued for 0.5 h. The reaction was cautiously quenched with 2% sulphuric acid and the ether layer separated, dried (MgSO4) and the solvent removed under reduced pressure to yield 3-hydroxymethyl-5-phenylisoxazole (2.10 g, 12 mmol, 44%); δH (CDCl3) 3.60 (1H, br, OH), 4.75 (2H, s, CH2), 6.35 (1H, s, CH), 7.2-7.8 (5H, m, C6H5).

reactant | ethyl 5-phenylisoxazole-3-carboxylate | 27 mmol, 5.90 g | C1(=CC=CC=C1)C1=CC(=NO1)C(=O)OCC | C12H11NO3
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | lithium aluminium hydride | 0.25 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | 3-hydroxymethyl-5-phenylisoxazole | 12 mmol, 2.10 g, 44% | OCC1=NOC(=C1)C1=CC=CC=C1 | C10H9NO2
